US05071999
a) Ethyl 1,4-diazatricyclo[6.3.0.02,6 ]undecane-4-carboxylate
8.6 g (50 mmol) of ethyl N-allyl-N-(2-oxoethyl) -carbamate are heated under reflux overnight with 5.8 g (50 mmol) of proline in 200 ml of toluene. The mixture is concentrated and the residue is distilled.

reactant | ethyl N-allyl-N-(2-oxoethyl) -carbamate | 50 mmol, 8.6 g | C(C=C)N(C(OCC)=O)CC=O | C8H13NO3
reactant | proline | 50 mmol, 5.8 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 1,4-diazatricyclo[6.3.0.02,6 ]undecane-4-carboxylate | N12C3CN(CC3CC2CCC1)C(=O)OCC | C12H20N2O2
